US04020155
0.5 mol of dimethyl-cetylamine known under the trademark "Armeen DM 16D" is heated at 90°-95° C. for 11/2 hours with 0.5 mol of ethyl monochloroacetate and 40 g of absolute alcohol. Carboethoxymethyl-dimethyl-cetyl -ammonium chloride is obtained.

reactant | dimethyl-cetylamine | 0.5 mol | CN(CCCCCCCCCCCCCCCC)C | C18H39N
reactant | Armeen DM 16D | CCCCCCCCCCCCCCCCN(C)C | C18H39N
reactant | ethyl monochloroacetate | 0.5 mol | ClCC(=O)OCC | C4H7ClO2
product | Carboethoxymethyl-dimethyl-cetyl -ammonium chloride | [Cl-].C(=O)(OCC)C[N+](CCCCCCCCCCCCCCCC)(C)C | InChI=1S/C22H46NO2.ClH/c1-5-7-8-9-10-11-12-13-14-15-16-17-18-19-20-23(3,4)21-22(24)25-6-2;/h5-21H2,1-4H3;1H/q+1;/p-1
